US05624950
To a suspension of 2-methoxyphenylmagnesium bromide, prepared from 0,576 g of magnesium and 4.5 g of 2-bromoanisole in 25 cm3 of tetrahydrofuran, is added dropwise, with stirring and at 30° C., a solution of 1.6 g of (3aRS,7SR,7aRS)-7-methyl-7-phenyl-2-[(2methoxyphenyl)acetyl]-4-perhydroisoindolone in 40 cm3 of tetrahydrofuran. The reaction mixture is stirred at room temperature for 18 hours, treated with 100 cm3 of saturated aqueous ammonium chloride solution, taken up in 100 cm3 of ethyl acetate and washed with 100 cm3 of water and then with 100 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 3 cm, height 16 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (70/30 by volume) and collecting 35 cm3 fractions. Fractions 8 to 16 are combined and then concentrated to dryness under reduced pressure (2.5 kPa). The residue is crystallized in 4 cm3 of ethyl acetate. 0.6 g of (3aRS,4RS,7SR,7aRS)-7-methyl-7-phenyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-4perhydroisoindolol is obtained, in the form of white crystals melting at 234° C.

reactant | 2-methoxyphenylmagnesium bromide | COC1=C(C=CC=C1)[Mg]Br
reactant | magnesium | 0,576 g | [Mg] | Mg
reactant | 2-bromoanisole | 4.5 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | (3aRS,7SR,7aRS)-7-methyl-7-phenyl-2-[(2methoxyphenyl)acetyl]-4-perhydroisoindolone | 1.6 g | CC1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=CC=CC=C1 | C24H27NO3
reactant | ammonium chloride | 100 cm3 | [Cl-].[NH4+]
solvent | tetrahydrofuran | 25 cm3 | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 cm3 | C(C)(=O)OCC | C4H8O2
product | (3aRS,4RS,7SR,7aRS)-7-methyl-7-phenyl-4-(2-methoxyphenyl)-2-[(2-methoxyphenyl)acetyl]-4perhydroisoindolol | 0.6 g | CC1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)(O)C1=C(C=CC=C1)OC)C1=CC=CC=C1 | C31H35NO4
